US08476300B2
3-(6-hydroxy-1-(4-(2-(piperidin-1-yl)ethoxy)phenoxy)naphthalen-2-yl)thiophene-2-carbonitrile hydrochloride
Add a solution of hydrogen chloride in ether (1 M, 28 μL; 28.0 μmol) to a solution of 3-(6-hydroxy-1-(4-(2-(piperidin-1-yl)ethoxy)phenoxy)naphthalen-2-yl)thiophene-2-carbonitrile (12 mg, 24.5 μmol) and dichloromethane (4 mL). Sonicate the mixture for 5 minutes and then concentrate to obtain the title compound (13 mg, 24.5 μmol). Mass spectrum (m/z): 471 (M+1-HCl).

reactant | hydrogen chloride | Cl | ClH
reactant | ether | 28.0 μmol, 1 M, 28 μL | CCOCC | C4H10O
reactant | 3-(6-hydroxy-1-(4-(2-(piperidin-1-yl)ethoxy)phenoxy)naphthalen-2-yl)thiophene-2-carbonitrile | 24.5 μmol, 12 mg | OC=1C=C2C=CC(=C(C2=CC1)OC1=CC=C(C=C1)OCCN1CCCCC1)C1=C(SC=C1)C#N | C28H26N2O3S
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 3-(6-hydroxy-1-(4-(2-(piperidin-1-yl)ethoxy)phenoxy)naphthalen-2-yl)thiophene-2-carbonitrile hydrochloride | 24.5 μmol, 13 mg | Cl.OC=1C=C2C=CC(=C(C2=CC1)OC1=CC=C(C=C1)OCCN1CCCCC1)C1=C(SC=C1)C#N | InChI=1S/C28H26N2O3S.ClH/c29-19-27-25(12-17-34-27)26-10-4-20-18-21(31)5-11-24(20)28(26)33-23-8-6-22(7-9-23)32-16-15-30-13-2-1-3-14-30;/h4-12,17-18,31H,1-3,13-16H2;1H
